US08034812B2
Production of N-[5-({2-[(cyclopropylacetyl)amino]imidazo[1,2-b]pyridazin-6-yl}oxy)-2-fluorophenyl]-1,3-dimethyl-1H-pyrazole-5-carboxamide
Using 2-cyclopropyl-N-(6-iodoimidazo[1,2-b]pyridazin-2-yl)acetamide (171 mg, 0.5 mmol), N-(2-fluoro-5-hydroxyphenyl)-1,3-dimethyl-1H-pyrazole-5-carboxamide (150 mg, 0.6 mmol), potassium carbonate (104 mg, 0.75 mmol) and N,N-dimethylformamide (4 mL), and by a reaction in the same manner as in Example 191, the title compound (53 mg, 23%) was obtained as pale-pink crystals.

reactant | 2-cyclopropyl-N-(6-iodoimidazo[1,2-b]pyridazin-2-yl)acetamide | 0.5 mmol, 171 mg | C1(CC1)CC(=O)NC=1N=C2N(N=C(C=C2)I)C1 | C11H11IN4O
reactant | N-(2-fluoro-5-hydroxyphenyl)-1,3-dimethyl-1H-pyrazole-5-carboxamide | 0.6 mmol, 150 mg | FC1=C(C=C(C=C1)O)NC(=O)C1=CC(=NN1C)C | C12H12FN3O2
reactant | potassium carbonate | 0.75 mmol, 104 mg | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 4 mL | CN(C=O)C | C3H7NO
product | N-[5-({2-[(cyclopropylacetyl)amino]imidazo[1,2-b]pyridazin-6-yl}oxy)-2-fluorophenyl]-1,3-dimethyl-1H-pyrazole-5-carboxamide | 53 mg, 23% | C1(CC1)CC(=O)NC=1N=C2N(N=C(C=C2)OC=2C=CC(=C(C2)NC(=O)C2=CC(=NN2C)C)F)C1 | C23H22FN7O3
